US07285550B2
(b) 2-Furan-2-yl-N5-[1-(5-methyl-isoxazol-3-ylmethyl)-piperidin-3-ylmethyl]-[1,2,4]triazolo[1,5-a][1,3,5]triazine-5,7-diamine
3-Chloromethyl-5-methyl-isoxazole (1.5 eq.) was directly added to a solution of 2-furan-2-yl-N5-piperidin-3-ylmethyl-[1,2,4]triazolo[1,5-a][1,3,5]triazine-5,7-diamine (0.14 mmol) and Et3N (0.3 mmol) in 3 mL of CH3CN. The resulting reaction mixture was stirred at room temp for 18 hours. It was then concentrated and purified by preparative HPLC using a mixture of aqueous CH3CN that has been buffered with 0.1% TFA. 1H NMR (DMSO-d6) δ 7.90 (br s, 2H), 7.80 (d, J=1.0 Hz, 1H), 7.05 (d, J=3.6 Hz, 1H), 6.68 (dd, J=3.6 Hz, 1.0 Hz, 1H), 6.30 (s, 1H), 3.65 (m, 2H), 3.20-2.75 (m, 11 H), 2.35 (s, 3H) ppm. MS: m/z: 410 [M+H]+.

reactant | 3-Chloromethyl-5-methyl-isoxazole | 1.5 eq. | ClCC1=NOC(=C1)C | C5H6ClNO
reactant | 2-furan-2-yl-N5-piperidin-3-ylmethyl-[1,2,4]triazolo[1,5-a][1,3,5]triazine-5,7-diamine | 0.14 mmol | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)NCC2CNCCC2)=N1 | C14H18N8O
reactant | Et3N | 0.3 mmol | CCN(CC)CC | C6H15N
solvent | CH3CN | 3 mL | CC#N | C2H3N
product | 2-Furan-2-yl-N5-[1-(5-methyl-isoxazol-3-ylmethyl)-piperidin-3-ylmethyl]-[1,2,4]triazolo[1,5-a][1,3,5]triazine-5,7-diamine | O1C(=CC=C1)C1=NN2C(N=C(N=C2N)NCC2CN(CCC2)CC2=NOC(=C2)C)=N1 | C19H23N9O2
